US08071588B2
N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide
N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide (37.8 mg. 0.06 mmol) was diluted in DMSO (1.5 mL) and dispensed into a 1 dram vial containing 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (0.18 mmol), acetic acid (3.6 mg, 0.6 mmol) and fitted with a magnetic stir bar. The resulting solution was stirred at room temperature for 4 h. MP-B(OAc)3H (0.6 mmol, 140 mg) was added and the solution was stirred for another 12 h. The polymer reagent was filtered and purification was completed via reversed phase HPLC using the Gilson (acidic conditions with 0.1% TFA in the solvents). The product after HPLC purification was dissolved in 3 mL of MeOH and passed through a 0.5 g amine column (washed with 8 mL of MeOH) to afford 6.92 mg of the title compound (16.4%). LC-MS m/z 701 (M+H)+, 1.19 min (ret time).

reactant | N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 0.06 mmol, 37.8 mg | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C34H39ClN6O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.18 mmol | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | acetic acid | 0.6 mmol, 3.6 mg | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}butanediamide | 6.92 mg, 16.4% | ClC1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCC1)CNC(CCC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C38H49ClN8O3
